US03987047
9-Amino-10-bromo-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline dihydrochloride was prepared from 9-amino-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline dihydrochloride by bromination with an equimolar quantity of bromine analogous to Example 148.

reactant | 9-amino-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline dihydrochloride | Cl.Cl.NC1=CC=2C(=C3C(=NC2C=C1)CCCNC3)C
reactant | bromine | BrBr | Br2
product | 9-Amino-10-bromo-2,3,4,5-tetrahydro-11-methyl-1H-azepino[4,3-b]quinoline dihydrochloride | Yield: 60% | Cl.Cl.NC1=C(C=2C(=C3C(=NC2C=C1)CCCNC3)C)Br | InChI=1S/C14H16BrN3.2ClH/c1-8-9-7-17-6-2-3-11(9)18-12-5-4-10(16)14(15)13(8)12;;/h4-5,17H,2-3,6-7,16H2,1H3;2*1H
